simulator lang=spectre insensitive=yes
global 0
include "libs/spectre/7nm_TT.scs"
M1p (Y A VDD VDD) pmos_sram L=20n nfin=2
M1n (Y A VSS VSS) nmos_sram L=20n nfin=2

// load
r1 (Y 0) resistor r=10k
c1 (Y 0) capacitor c=100f
r2 (Y VDD) resistor r=10k
c2 (Y VDD) capacitor c=100f

// stimulus
v1 (vdd 0) vsource type=dc dc=0.7_V 
v2 (A 0) vsource type=pulse val0=0 val1=0.7 delay=2.5ns rise=60ps fall=60ps width=15ns period=30ns

tran tran stop=100ns
saveOptions options  save=allpub  saveahdlvars=all
save A Y