// Ring oscillator Spectre deck for INVERTER ring with no fanouts.simulator lang=spectre
global 0 gnd vdd vss
aliasGnd ( gnd 0 ) vsource type=dc dc=0

// Spectre options to be usedSetOption1 options  iabstol=1.00n audit=full temp=25
MyAcct1 info what=inst extremes=yes
MyAcct2 info what=models extremes=yes
MyAcct3 info what=input extremes=yes
MyAcct5 info what=terminals extremes=yes
MyAcct6 info what=oppoint extremes=yes

// Next section is the subckt for invsubckt inv ( nq a )
subckt inv ( nq a )
m1 ( nq a vdd vdd ) p l=0.35u w=2.60u ad=1.90p pd=6.66u as=1.90p ps=6.66u
m2 ( vss a nq vss ) n l=0.35u w=1.10u ad=0.80p pd=3.66u as=0.80p ps=3.66u
// Interconnect Caps for invc0 ( a vdd ) capacitor c=1.0824323e-15
c1 ( a nq ) capacitor c=3.0044e-16
c2 ( nq vss ) capacitor c=5.00186e-16
c3 ( nq vdd ) capacitor c=6.913993e-16
c4 ( a vss ) capacitor c=8.5372566e-16
ends

// Begin top level circuit definitionxinv1 ( 1 90 ) inv
xinv2 ( 2 1 ) inv
xinv3 ( 3 2 ) inv
xinv4 ( 4 3 ) inv
xinv5 ( 5 4 ) inv
xinv6 ( 6 5 ) inv
xinv7 ( 7 6 ) inv
xinv8 ( 8 7 ) inv
xinv9 ( 9 8 ) inv
xinv10 ( 10 9 ) inv
xinv11 ( 11 10 ) inv
xinv12 ( 12 11 ) inv
xinv13 ( 13 12 ) inv
xinv14 ( 14 13 ) inv
xinv15 ( 15 14 ) inv
xinv16 ( 16 15 ) inv
xinv17 ( 90 16 ) inv

// Next couple of lines sets variables for vdd and vss.parameters vdd_S1=3.3
parameters vss_S1=0.0
vdd_I1 ( vdd gnd ) vsource dc=vdd_S1
vss_I1 ( vss gnd ) vsource dc=vss_S1

// Set initial conditions:
ic  2=0 4=0 6=0 8=0 10=0

//  Next line makes the call to the model//  NOTE: The user may utilize the '.lib' syntax with Spectre's +spp
//  command line option if they are using Spectre 4.43 or greater.
//  There is also a Spectre native syntax for equivalent
// functionality. It is shown in q35d4h5.modsp.
include "q35d4h5.modsp" section=tt

// Analysis Statement
tempOption options temp=25
typ_tran tran step=0.010n stop=35n

alter_ss altergroup {
    include "q35d4h5.modsp" section=ss
    parameters vdd_S1=3.0
}

alterTempTo100 alter param=temp value=100
ss_tran tran step=0.010n stop=35n

alter_ff altergroup {
    include "q35d4h5.modsp" section=ff
    parameters vdd_S1=3.3
}

alterTempTo0 alter param=temp value=0
ff_tran tran step=0.010n stop=35n