// GaAs Traveling Wave Amplifier// GaAs Traveling-wave distributed amplifier (2-26.5GHz)
// Designed by Jerry Orr, MWTD Hewlett-Packard Co.
// 1986 MTT symposium; unpublished material.
global gnd vdd
simulator lang=spectre
// Modelsmodel nGaAs gaas type=n vto=-2 beta=0.012 cgs=.148p cgd=.016p fc=0.5
subckt cell (o g1 g2)
    TL   (o    gnd  d    gnd)  tline len=355u vel=0.36
    Gt   (d    g2   s)         nGaAs
    Ctgd (d    s)              capacitor c=0.033p
    Cgg  (g2   gnd)            capacitor c=3p
    Gb   (s    g1   gnd)       nGaAs
    Cbgd (s    gnd)            capacitor c=0.033p
    Ro   (d    c)              resistor r=4k
    Co   (c    gnd)            capacitor c=0.165p
ends cell
subckt stage (i0 o8)// Devices
    Q1      (o1      i1      b2)      cell
    Q2      (o2      i2      b2)      cell
    Q3      (o3      i3      b2)      cell
    Q4      (o4      i4      b2)      cell
    Q5      (o5      i5      b2)      cell
    Q6      (o6      i6      b2)      cell
    Q7      (o7      i7      b2)      cell
    // Transmission linesTLi1   (i0    gnd     i1    gnd)    tline   len=185u  z0=96  vel=0.36
    TLi2   (i1    gnd     i2    gnd)    tline   len=675u  z0=96  vel=0.36
    TLi3   (i2    gnd     i3    gnd)    tline   len=675u  z0=96  vel=0.36
    TLi4   (i3    gnd     i4    gnd)    tline   len=675u  z0=96  vel=0.36
    TLi5   (i4    gnd     i5    gnd)    tline   len=675u  z0=96  vel=0.36
    TLi6   (i5    gnd     i6    gnd)    tline   len=675u  z0=96  vel=0.36
    TLi7   (i6    gnd     i7    gnd)    tline   len=675u  z0=96  vel=0.36
    TLi8   (i7    gnd     i8    gnd)    tline   len=340u  z0=96  vel=0.36
    TLo1   (o0    gnd     o1    gnd)    tline   len=360u  z0=96  vel=0.36
    TLo2   (o1    gnd     o2    gnd)    tline   len=750u  z0=96  vel=0.36
    TLo3   (o2    gnd     o3    gnd)    tline   len=750u  z0=96  vel=0.36
    TLo4   (o3    gnd     o4    gnd)    tline   len=750u  z0=96  vel=0.36
    TLo5   (o4    gnd     o5    gnd)    tline   len=750u  z0=96  vel=0.36
    TLo6   (o5    gnd     o6    gnd)    tline   len=750u  z0=96  vel=0.36
    TLo7   (o6    gnd     o7    gnd)    tline   len=750u  z0=96  vel=0.36
    TLo8   (o7    gnd     o8    gnd)    tline   len=220u  z0=96  vel=0.36
    // Bias network// drain bias
    Ldd     (vdd     o0)      inductor        l=1u
    R1      (o0      b1)      resistor        r=50
    C1      (b1      gnd)     capacitor       c=9p
    // gate 2 bias
    R2      (b1      b2)      resistor        r=775
    R3      (b2      gnd)     resistor        r=465
    C2      (b2      gnd)     capacitor       c=21p
    // gate 1 bias
    R4      (i8      b3)      resistor        r=50
    R5      (b3      gnd)     resistor        r=500
    C3      (b3      gnd)     capacitor       c=12p
ends stage
// Two stage amplifier
P1      (in      gnd)     port      r=50    num=1   mag=0
Cin     (in      in1)     capacitor         c=1n
X1      (in1     out1)    stage
Cmid    (out1    in2)     capacitor         c=1n
X2      (in2     out2)    stage
Cout    (out2    out)     capacitor         c=1n
P2      (out     gn)      port      r=50    num=2
// Power SupplyVpos vdd gnd vsource dc=5
// AnalysesOpPoint dc
Sparams sp start=100M stop=100G dec=100

* define passive 3-pole bandpass filter
subckt filter (n1 n2)
    parameters bw=1 r0=1 fc=1
    checkFreqs paramtest errorif=((bw/2-fc)>=0)\
    message="center frequency must be greater than half thebandwidth"
    C1  (n1  0)   capacitor c=0.3374 / (6.2832 * bw * r0)
    L1  (n1  0)   inductor l=(r0 * bw) / (0.3374 * 6.2832 * fc * fc)
    C2  (n1  n12) capacitor c=bw / (0.9705 * 6.2832 * fc * fc * r0)
    L2  (n12 n2)  inductor l=(r0 * 0.9705) / (6.2832 * bw)
    C3  (n2  0)   capacitor c=2.2034 / (6.2832 * bw * r0)
    L3  (n2  0)   inductor l=(r0 * bw) / (2.2034 * 6.2832 * fc * fc)
ends filter